US08466199B2
The reaction of methyl 3-hydroxyl-4-methoxybenzoate and allyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 3-Allyloxy-4-methoxy-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.63 (s, —CO2H); 7.54 (d-like, 1 arom. H); 7.43 (m, 1 arom. H); 7.04 (m, 1 arom. H); 6.02 (m, —CH═CH2); 5.39, 5.23 (2 d-like, CH═CH2); 4.57 (d-like, CH2—CH═CH2); 3.81 (s, OCH3). 13C-NMR (100 MHz, d6-DMSO): 167.04 (—C═O); 152.87; 147.07; 133.59; 123.40; 122.86; 117.60; 113.62; 111.23; 68.88; 55.69.

reactant | methyl 3-hydroxyl-4-methoxybenzoate | OC=1C=C(C(=O)OC)C=CC1OC | C9H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-Allyloxy-4-methoxy-benzoic acid | C(C=C)OC=1C=C(C(=O)O)C=CC1OC | C11H12O4
